US07645785B2
Anthranilic acid (12.3 g, 90 mmol) was dissolved in a mixture of aqueous HCl (36%, 50 mL), H2O (100 mL), dioxane (50 mL) and methanol (50 mL) at 0° C. and treated dropwise with NaNO2 (7.6 g, 110 mmol) dissolved in H2O (50 ml) whereas the temperature of the reaction mixture was kept below 5° C. After 1 h at 0° C. the mixture was poured onto an icy solution of sodium acetate (26 g, 317 mmol) and sodium azide (15 g, 230 mmol) in ca. 300 ml of water. Repeated (ca. 3 times) extraction of the resulting suspension with ethylacetate, drying of the combined organic phases, and evaporation of the solvent gave (8.5 g, 58%) of 2-azido-benzoic acid. MS (ES+): 164 (M+H).

reactant | Anthranilic acid | 90 mmol, 12.3 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | NaNO2 | 110 mmol, 7.6 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 317 mmol, 26 g | C(C)(=O)[O-].[Na+]
reactant | sodium azide | 230 mmol, 15 g | [N-]=[N+]=[N-].[Na+]
solvent | HCl | 50 mL | Cl | ClH
solvent | H2O | 100 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
solvent | H2O | 50 ml | O | H2O
solvent | water | ca. 300 ml | O | H2O
product | 2-azido-benzoic acid | 8.5 g, 58% | N(=[N+]=[N-])C1=C(C(=O)O)C=CC=C1 | C7H5N3O2
